US09326973B2
To a solution of (S)-ethyl 2-amino-4-fluoro-3,3-dimethylbutanoate/HCl (0.29 g, 1.357 mmol) in MeOH (5 mL) was added TEA (0.4 mL, 2.87 mmol) and Boc2O (0.58 g, 2.66 mmol). The reaction mixture was stirred for 2 h at rt and concentrated. The residue was redissolved in THF (10 mL) and treated with NaOH (8 mL, 16.00 mmol), MeOH (20 mL) and stirred for 1 h. The reaction mixture was diluted with water (4 mL) and extracted with EtOAc/hexane (1/2). The aqueous layer was acidified with cold 1 N HCl and extracted with EtOAc. The organic phase was washed with water, brine, dried (MgSO4) and concentrated to afford (S)-2-(tert-butoxycarbonylamino)-4-fluoro-3,3-dimethylbutanoic acid (0.3 g). 1H NMR (400 MHz, CDCl3) δ ppm 12.06 (1H, br. s.), 4.06-4.36 (3H, m), 1.38-1.46 (15H, m).

reactant | (S)-ethyl 2-amino-4-fluoro-3,3-dimethylbutanoate HCl | 1.357 mmol, 0.29 g | N[C@H](C(=O)OCC)C(CF)(C)C.Cl
reactant | Boc2O | 2.66 mmol, 0.58 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 16.00 mmol, 8 mL | [OH-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
solvent | water | 4 mL | O | H2O
solvent | MeOH | 20 mL | CO | CH4O
product | (S)-2-(tert-butoxycarbonylamino)-4-fluoro-3,3-dimethylbutanoic acid | 0.3 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C(CF)(C)C | C11H20FNO4
